US07229996B2
Step 1: (R/S)-8-[4-(1-tert-Butoxycarbonyl-pyrrolidin-3-yl)-piperazin-1-yl]-1-cyclopropyl-7-fluoro-9-methyl-4-oxo-4H-quinolizine-3-carboxylic acid:
The title compound was prepared as described in Step 1 of Example 9 (1974) except 3-oxo-pyrrolidine-1-carboxylic acid tert-butyl ester was used in place of 4-oxo-piperidine-1-carboxylic acid tert-butyl ester and 1-cyclopropyl-7-fluoro-9-methyl-4-oxo-8-piperazin-1-yl-4H-quinolizine-3-carboxylic acid was used in place of (8-(3-aminomethyl-pyrrolidin-1-yl)-1-cyclopropyl-7-fluoro-9-methyl-4-oxo-4H-quinolizine-3-carboxylic acid.

reactant | 3-oxo-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(CC1)=O | C9H15NO3
reactant | 1-cyclopropyl-7-fluoro-9-methyl-4-oxo-8-piperazin-1-yl-4H-quinolizine-3-carboxylic acid | C1(CC1)C=1C=C(C(N2C=C(C(=C(C12)C)N1CCNCC1)F)=O)C(=O)O | C18H20FN3O3
reactant | 8-(3-aminomethyl-pyrrolidin-1-yl)-1-cyclopropyl-7-fluoro-9-methyl-4-oxo-4H-quinolizine-3-carboxylic acid | NCC1CN(CC1)C=1C(=CN2C(C(=CC(=C2C1C)C1CC1)C(=O)O)=O)F | C19H22FN3O3
product | (R/S)-8-[4-(1-tert-Butoxycarbonyl-pyrrolidin-3-yl)-piperazin-1-yl]-1-cyclopropyl-7-fluoro-9-methyl-4-oxo-4H-quinolizine-3-carboxylic acid | C(C)(C)(C)OC(=O)N1CC(CC1)N1CCN(CC1)C=1C(=CN2C(C(=CC(=C2C1C)C1CC1)C(=O)O)=O)F | C27H35FN4O5
